US04997840
A mixture of acetic anhydride (26.5 ml) and formic acid (98%, 17.4 ml) was stirred at 50°-60° for 110 minutes and then cooled to ambient temperature. 4'-Fluoro-2'-(methylamino)acetophenone (19.9 g) was added and the mixture stirred overnight at ambient temperature. Water (90 ml) was added and the mixture stirred in an ice/ salt bath. Aqueous sodium hydroxide (specific gravity 1.5, 50 ml) was added dropwise over a period of 30 minutes whilst maintaining the temperature below 30°. The mixture was extracted with dichloromethane (3×50 ml) and the combined extracts were dried over magnesium sulphate to give a solution of 2'-acetyl-5'-fluoro-N-methylformanilide.

reactant | acetic anhydride | 26.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 17.4 ml | C(=O)O | CH2O2
reactant | 4'-Fluoro-2'-(methylamino)acetophenone | 19.9 g | FC1=CC(=C(C=C1)C(C)=O)NC | C9H10FNO
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | Water | 90 ml | O | H2O
product | 2'-acetyl-5'-fluoro-N-methylformanilide | C(C)(=O)C1=C(N(C=O)C)C=C(C=C1)F | C10H10FNO2
